US06458830B1
5,6-Dihydro-3-phenylpyran-2-one
A solution of 3-bromo-5,6-dihydropyran-2-one (Org. Syn., 1996, 73, 231) (74.9 g), phenylboronic acid (51.8 g), potassium carbonate (294 g) and tetrakis(triphenylphosphine) palladium(0) (3.4 g) in toluene was heated (100° C.) under an atmosphere of nitrogen for 24 hours. The cooled solution was diluted by addition of ethyl acetate (1000 ml) and water (1000 ml) and the mixture filtered through Hiflo™. The organic phase was dried (MgSO4), evaporated in vacuo and the residue crystallised from methanol and then toluene to give the title compound, 43 g. mp. 100-101° C.

reactant | 3-bromo-5,6-dihydropyran-2-one | 74.9 g | BrC=1C(OCCC1)=O | C5H5BrO2
reactant | phenylboronic acid | 51.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 294 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 3.4 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 1000 ml | O | H2O
product | 5,6-Dihydro-3-phenylpyran-2-one | C1(=CC=CC=C1)C=1C(OCCC1)=O | C11H10O2
